US07507740B2
(ii) Production of 2-{2-[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethoxy}ethyl benzoate
To a solution of 2-[2-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)ethoxy]ethyl benzoate (802 mg) in 1-methyl-2-pyrrolidone (8.0 mL) was added 3-chloro-4-[(3-fluorobenzyl)oxy]aniline (745 mg), and the mixture was stirred in an oil bath at a temperature of 100° C. for 2 hrs. The reaction mixture was allowed to cool to room temperature, diluted with 5% aqueous sodium hydrogen carbonate solution (25 mL), and extracted with a mixed solvent (50 mL×3) of ethyl acetate/tetrahydrofuran (3/1). The solvent was evaporated under reduced pressure, and the obtained residue was subjected to basic silica gel chromatography (eluent:hexane/ethyl acetate=95/5→0/100). The object fraction was concentrated under reduced pressure and dried to give the title compound (1141 mg) as a yellow amorphous solid.

reactant | 2-[2-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)ethoxy]ethyl benzoate | 802 mg | C(C1=CC=CC=C1)(=O)OCCOCCN1C=CC=2N=CN=C(C21)Cl | C17H16ClN3O3
reactant | 3-chloro-4-[(3-fluorobenzyl)oxy]aniline | 745 mg | ClC=1C=C(N)C=CC1OCC1=CC(=CC=C1)F | C13H11ClFNO
solvent | 1-methyl-2-pyrrolidone | 8.0 mL | CN1C(CCC1)=O | C5H9NO
solvent | sodium hydrogen carbonate | 25 mL | C(O)([O-])=O.[Na+]
product | 2-{2-[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethoxy}ethyl benzoate | 1141 mg | C(C1=CC=CC=C1)(=O)OCCOCCN1C=CC=2N=CN=C(C21)NC2=CC(=C(C=C2)OCC2=CC(=CC=C2)F)Cl | C30H26ClFN4O4
